US07598249B2
4-(2-Benzyloxy-benzyl)-piperazine-1-carboxylic acid phenylamide
The title compound was prepared from piperazine-1-carboxylic acid phenylamide and 2-benzyloxybenzaldehyde. 1H NMR (400 MHz, CDCl3): 7.49-7.20 (m, 11H), 7.05-6.92 (m, 3H), 6.41 (s, 1H), 5.08 (s, 2H), 3.65 (s, 2H), 3.51-3.45 (m, 4H), 2.55-2.49 (m, 4H).

reactant | piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCNCC1 | C11H15N3O
reactant | 2-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1 | C14H12O2
product | 4-(2-Benzyloxy-benzyl)-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=C(C=CC=C1)OCC1=CC=CC=C1 | C25H27N3O2
